US09193693B2
A suspension of t-butyl piperazine-1-carboxylate (2 g, 10.75 mmol, 2.00 equiv), 1-bromo-4-methoxybenzene (1 g, 5.38 mmol, 1.00 equiv), X-phos (257.2 mg, 0.54 mmol, 0.10 equiv), Pd2(dba)3 (248.4 mg, 0.27 mmol, 0.05 equiv), and NaOt-Bu (1.62 g, 16.88 mmol, 3.00 equiv) in toluene (15 mL) was placed in a 100-mL round bottom flask, stirred overnight at 100° C. in an oil bath, then concentrated under vacuum. Purification via silica gel column (PE/EA (50:1)) yielded 1.412 g (81%) of t-butyl 4-(4-methoxyphenyl)piperazine-1-carboxylate as a yellow solid.

reactant | t-butyl piperazine-1-carboxylate | 10.75 mmol, 2 g, 2.00 equiv | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-bromo-4-methoxybenzene | 5.38 mmol, 1 g, 1.00 equiv | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | X-phos | 0.54 mmol, 257.2 mg, 0.10 equiv | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | NaOt-Bu | 16.88 mmol, 1.62 g, 3.00 equiv | CC(C)(C)[O-].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.27 mmol, 248.4 mg, 0.05 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | t-butyl 4-(4-methoxyphenyl)piperazine-1-carboxylate | 1.412 g, 81% | COC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O3
